US03998829
3α -Hydroxy-21-nicotinylthiomethyl-5α-pregnane-11,20-dione
Treatment of 3α-hydroxy-21-methylene-5α-pregnane-11,20-dione (240 mg) in acetone (15 ml) with thionicotinic acid (150 mg) for 4 hrs. in similar manner to that described in Example 27 gave title compound (220 mg) as a white foam [αD ] + 55.6° (c 1.01).

reactant | 3α-hydroxy-21-methylene-5α-pregnane-11,20-dione | 240 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
reactant | thionicotinic acid | 150 mg | C(C1=CN=CC=C1)(=S)O | C6H5NOS
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3α -Hydroxy-21-nicotinylthiomethyl-5α-pregnane-11,20-dione | 220 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCSCC5=CN=CC=C5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C28H39NO3S
